US20010025103A1
Pyridine was added to a solution of pNB oxalylchloride in acetonitrile. After 20 minutes the TES azetidinone isobutyl carbonate was added. The reaction was given an aqueous work up, the organics were concentrated in vacuo to afford TES oxalimide isobutyl carbonate (15.2 g) as a white solid.

reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | oxalylchloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | azetidinone isobutyl carbonate | C(C(C)C)OC(O)=O.N1C(CC1)=O
solvent | acetonitrile | C(C)#N | C2H3N
product | oxalimide isobutyl carbonate | 15.2 g | C(C(C)C)OC(O)=O.C1(C(N1)=O)=O | InChI=1S/C5H10O3.C2HNO2/c1-4(2)3-8-5(6)7;4-1-2(5)3-1/h4H,3H2,1-2H3,(H,6,7);(H,3,4,5)
